US05455242
Dissolve 3-phenyl-2-methylcarboxymethylpropionic acid, t-butyldimethylsilyl ester (3.07 g, 9.13 mmol) in tetrahydrofuran (11 mL) and place under an argon atmosphere. Add, by dropwise addition, tetra-n-butylammonium fluoride (11 mL of a 1M solution in tetrahydrofuran, 11 mmol). Stir for 1 hour at room temperature and partition between ethyl ether and water. Separate the organic phase, wash with saturated aqueous sodium chloride, dry (MgSO4), filter and evaporate the solvent in vacuo to give 3-phenyl-2-methylcarboxymethylpropionic acid.

reactant | 3-phenyl-2-methylcarboxymethylpropionic acid, t-butyldimethylsilyl ester | 9.13 mmol, 3.07 g | C1(=CC=CC=C1)CC(C(=O)O[Si](C)(C)C(C)(C)C)(C)CC(=O)O | C18H28O4Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | 3-phenyl-2-methylcarboxymethylpropionic acid | C1(=CC=CC=C1)CC(C(=O)O)(C)CC(=O)O | C12H14O4
